US07507729B2
a) 9-Bromo-2-methoxymethyl-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one
As described for example 1a) (4-bromo-2-cyano-phenyl)-carbamic acid ethyl ester (19.9 g, 74.2 mmol) instead of (4-chloro-2-cyano-phenyl)-carbamic acid ethyl ester using methoxymethyl-carboxylic acid hydrazide instead of cyclopropane-carboxylic acid hydrazide, was converted to the title compound (21.1 g, 92%) which was obtained as a light yellow solid. MS: m/e=308.9/310.9 [M+H]+.

reactant | (4-bromo-2-cyano-phenyl)-carbamic acid ethyl ester | 74.2 mmol, 19.9 g | C(C)OC(NC1=C(C=C(C=C1)Br)C#N)=O | C10H9BrN2O2
reactant | methoxymethyl-carboxylic acid hydrazide | COCC(=O)NN | C3H8N2O2
product | 9-Bromo-2-methoxymethyl-6H-[1,2,4]triazolo[1,5-c]quinazolin-5-one | 21.1 g, 92% | BrC1=CC=2C=3N(C(NC2C=C1)=O)N=C(N3)COC | C11H9BrN4O2
